US07943622B2
Step 1. Synthesis of 1,4-di((benzyloxy)carbonyl)piperazine-2-carboxylic acid
Piperazine-2-carboxylic acid dihydrochloride (10.0 g, 49.2 mmol) was dissolved in H2O (125 mL) and 1,4-dioxane (200 mL), and the solution was brought to pH 11 with 50% NaOH in H2O. Benzyl chloroformate (14 mL, 98 mmol) was added while maintaining the pH at 11 with 50% NaOH in H2O. After 1 h, an additional portion of benzyl chloroformate (2 mL, 14 mmol) was added. After 30 min, the solution was extracted with Et2O (3×100 mL). The aqueous layer was brought to pH 2 with concentrated HCl and extracted with EtOAc (3×200 mL). The combined EtOAc extracts were dried over Na2SO4, filtered, and concentrated under reduced pressure to give 18.9 g (96%) of the desired product as a thick oil. The material was used without further purification. LC-MS: RT=9.250 min; [M+H]+=421.1.

reactant | Piperazine-2-carboxylic acid dihydrochloride | 49.2 mmol, 10.0 g | Cl.Cl.N1C(CNCC1)C(=O)O
reactant | NaOH | [OH-].[Na+]
reactant | Benzyl chloroformate | 98 mmol, 14 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | benzyl chloroformate | 14 mmol, 2 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | H2O | 125 mL | O | H2O
solvent | 1,4-dioxane | 200 mL | O1CCOCC1 | C4H8O2
product | 1,4-di((benzyloxy)carbonyl)piperazine-2-carboxylic acid | 18.9 g, 96% | C(C1=CC=CC=C1)OC(=O)N1C(CN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)O | C21H22N2O6
